US08791161B2
3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)-N,N-dimethylpropanamide
Following General Procedure O, the title compound was prepared from N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) Intermediate 8 and N,N-dimethyl-acrylamide.

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C=2OC1=C(C2)C=CC=C1 | C28H18Cl2N2O6S4
reactant | N,N-dimethyl-acrylamide | CN(C(C=C)=O)C | C5H9NO
product | 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)-N,N-dimethylpropanamide | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCCC(=O)N(C)C | C19H19ClN2O4S2
